* c:\fossee\esim\library\subcircuitlibrary\mc14560b\mc14560b.cir

.include 3_and.sub
.include 4_and.sub
* u3  net-_u1-pad5_ net-_u1-pad6_ net-_u10-pad1_ d_nand
* u9  net-_u1-pad5_ net-_u10-pad1_ net-_u17-pad1_ d_and
* u10  net-_u10-pad1_ net-_u1-pad6_ net-_u10-pad3_ d_and
* u17  net-_u17-pad1_ net-_u10-pad3_ net-_u17-pad3_ d_nor
* u2  net-_u1-pad3_ net-_u1-pad4_ net-_u2-pad3_ d_nand
* u7  net-_u1-pad3_ net-_u2-pad3_ net-_u16-pad1_ d_and
* u8  net-_u2-pad3_ net-_u1-pad4_ net-_u16-pad2_ d_and
* u16  net-_u16-pad1_ net-_u16-pad2_ net-_u16-pad3_ d_nor
* u70  net-_u1-pad1_ net-_u1-pad2_ net-_u14-pad1_ d_nand
* u5  net-_u1-pad1_ net-_u14-pad1_ net-_u15-pad1_ d_and
* u6  net-_u14-pad1_ net-_u1-pad2_ net-_u15-pad2_ d_and
* u15  net-_u15-pad1_ net-_u15-pad2_ net-_u15-pad3_ d_nor
* u4  net-_u1-pad15_ net-_u1-pad14_ net-_u11-pad2_ d_nand
* u11  net-_u1-pad15_ net-_u11-pad2_ net-_u11-pad3_ d_and
* u12  net-_u11-pad2_ net-_u1-pad14_ net-_u12-pad3_ d_and
* u18  net-_u11-pad3_ net-_u12-pad3_ net-_u18-pad3_ d_nor
* u13  net-_u11-pad2_ net-_u13-pad2_ d_inverter
* u14  net-_u14-pad1_ net-_u14-pad2_ d_inverter
* u26  net-_u1-pad7_ net-_u18-pad3_ net-_u26-pad3_ d_nand
* u29  net-_u1-pad7_ net-_u26-pad3_ net-_u29-pad3_ d_and
* u30  net-_u26-pad3_ net-_u18-pad3_ net-_u30-pad3_ d_and
* u36  net-_u29-pad3_ net-_u30-pad3_ net-_u1-pad13_ d_nor
* u20  net-_u18-pad3_ net-_u20-pad2_ d_inverter
* u19  net-_u15-pad3_ net-_u19-pad2_ d_inverter
* u21  net-_u16-pad3_ net-_u21-pad2_ d_inverter
* u27  net-_u1-pad7_ net-_u20-pad2_ net-_u27-pad3_ d_and
* u25  net-_u13-pad2_ net-_u25-pad2_ d_inverter
* u31  net-_u27-pad3_ net-_u25-pad2_ net-_u31-pad3_ d_nor
* u34  net-_u31-pad3_ net-_u19-pad2_ net-_u34-pad3_ d_xor
* u40  net-_u34-pad3_ net-_u40-pad2_ d_inverter
x3 net-_u1-pad7_ net-_u20-pad2_ net-_u19-pad2_ net-_u32-pad1_ 3_and
* u23  net-_u13-pad2_ net-_u19-pad2_ net-_u23-pad3_ d_and
* u24  net-_u14-pad2_ net-_u24-pad2_ d_inverter
* u32  net-_u32-pad1_ net-_u23-pad3_ net-_u32-pad3_ d_nor
* u37  net-_u32-pad3_ net-_u24-pad2_ net-_u37-pad3_ d_nor
* u41  net-_u37-pad3_ net-_u21-pad2_ net-_u41-pad3_ d_xor
x1 net-_u13-pad2_ net-_u19-pad2_ net-_u21-pad2_ net-_u28-pad2_ 3_and
* u22  net-_u14-pad2_ net-_u21-pad2_ net-_u22-pad3_ d_and
* u28  net-_u28-pad1_ net-_u28-pad2_ net-_u28-pad3_ d_nor
* u33  net-_u28-pad3_ net-_u22-pad3_ net-_u33-pad3_ d_nor
x2 net-_u1-pad7_ net-_u20-pad2_ net-_u19-pad2_ net-_u21-pad2_ net-_u28-pad1_ 4_and
x5 net-_u2-pad3_ net-_u33-pad3_ net-_u38-pad3_ net-_u44-pad1_ 3_and
* u35  net-_u33-pad3_ net-_u2-pad3_ net-_u35-pad3_ d_nand
* u38  net-_u35-pad3_ net-_u38-pad2_ net-_u38-pad3_ d_nand
x4 net-_u33-pad3_ net-_u2-pad3_ net-_u10-pad1_ net-_u43-pad1_ 3_and
* u39  net-_u38-pad2_ net-_u10-pad1_ net-_u39-pad3_ d_and
* u43  net-_u43-pad1_ net-_u39-pad3_ net-_u43-pad3_ d_nor
* u42  net-_u38-pad3_ net-_u17-pad3_ net-_u42-pad3_ d_and
* u44  net-_u44-pad1_ net-_u42-pad3_ net-_u44-pad3_ d_nor
* u45  net-_u44-pad3_ net-_u45-pad2_ d_inverter
* u46  net-_u43-pad3_ net-_u46-pad2_ d_inverter
x8 net-_u34-pad3_ net-_u44-pad3_ net-_u46-pad2_ net-_u57-pad1_ 3_and
* u49  net-_u40-pad2_ net-_u45-pad2_ net-_u49-pad3_ d_and
* u50  net-_u41-pad3_ net-_u45-pad2_ net-_u50-pad3_ d_and
* u51  net-_u40-pad2_ net-_u43-pad3_ net-_u51-pad3_ d_and
* u57  net-_u57-pad1_ net-_u49-pad3_ net-_u57-pad3_ d_nor
* u58  net-_u50-pad3_ net-_u51-pad3_ net-_u58-pad3_ d_nor
* u61  net-_u57-pad3_ net-_u58-pad3_ net-_u1-pad12_ d_nor
* u47  net-_u46-pad2_ net-_u44-pad3_ net-_u47-pad3_ d_and
x7 net-_u34-pad3_ net-_u41-pad3_ net-_u46-pad2_ net-_u55-pad1_ 3_and
* u55  net-_u55-pad1_ net-_u47-pad3_ net-_u1-pad9_ d_nor
* u48  net-_u40-pad2_ net-_u43-pad3_ net-_u48-pad3_ d_and
x6 net-_u34-pad3_ net-_u41-pad3_ net-_u45-pad2_ net-_u56-pad1_ 3_and
* u56  net-_u56-pad1_ net-_u48-pad3_ net-_u56-pad3_ d_nor
* u60  net-_u56-pad3_ net-_u1-pad10_ d_inverter
* u53  net-_u34-pad3_ net-_u45-pad2_ net-_u53-pad3_ d_and
* u54  net-_u40-pad2_ net-_u43-pad3_ net-_u54-pad3_ d_and
* u52  net-_u41-pad3_ net-_u46-pad2_ net-_u52-pad3_ d_and
* u59  net-_u52-pad3_ net-_u53-pad3_ net-_u59-pad3_ d_nor
* u62  net-_u59-pad3_ net-_u54-pad3_ net-_u1-pad11_ d_nor
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ port
a1 [net-_u1-pad5_ net-_u1-pad6_ ] net-_u10-pad1_ u3
a2 [net-_u1-pad5_ net-_u10-pad1_ ] net-_u17-pad1_ u9
a3 [net-_u10-pad1_ net-_u1-pad6_ ] net-_u10-pad3_ u10
a4 [net-_u17-pad1_ net-_u10-pad3_ ] net-_u17-pad3_ u17
a5 [net-_u1-pad3_ net-_u1-pad4_ ] net-_u2-pad3_ u2
a6 [net-_u1-pad3_ net-_u2-pad3_ ] net-_u16-pad1_ u7
a7 [net-_u2-pad3_ net-_u1-pad4_ ] net-_u16-pad2_ u8
a8 [net-_u16-pad1_ net-_u16-pad2_ ] net-_u16-pad3_ u16
a9 [net-_u1-pad1_ net-_u1-pad2_ ] net-_u14-pad1_ u70
a10 [net-_u1-pad1_ net-_u14-pad1_ ] net-_u15-pad1_ u5
a11 [net-_u14-pad1_ net-_u1-pad2_ ] net-_u15-pad2_ u6
a12 [net-_u15-pad1_ net-_u15-pad2_ ] net-_u15-pad3_ u15
a13 [net-_u1-pad15_ net-_u1-pad14_ ] net-_u11-pad2_ u4
a14 [net-_u1-pad15_ net-_u11-pad2_ ] net-_u11-pad3_ u11
a15 [net-_u11-pad2_ net-_u1-pad14_ ] net-_u12-pad3_ u12
a16 [net-_u11-pad3_ net-_u12-pad3_ ] net-_u18-pad3_ u18
a17 net-_u11-pad2_ net-_u13-pad2_ u13
a18 net-_u14-pad1_ net-_u14-pad2_ u14
a19 [net-_u1-pad7_ net-_u18-pad3_ ] net-_u26-pad3_ u26
a20 [net-_u1-pad7_ net-_u26-pad3_ ] net-_u29-pad3_ u29
a21 [net-_u26-pad3_ net-_u18-pad3_ ] net-_u30-pad3_ u30
a22 [net-_u29-pad3_ net-_u30-pad3_ ] net-_u1-pad13_ u36
a23 net-_u18-pad3_ net-_u20-pad2_ u20
a24 net-_u15-pad3_ net-_u19-pad2_ u19
a25 net-_u16-pad3_ net-_u21-pad2_ u21
a26 [net-_u1-pad7_ net-_u20-pad2_ ] net-_u27-pad3_ u27
a27 net-_u13-pad2_ net-_u25-pad2_ u25
a28 [net-_u27-pad3_ net-_u25-pad2_ ] net-_u31-pad3_ u31
a29 [net-_u31-pad3_ net-_u19-pad2_ ] net-_u34-pad3_ u34
a30 net-_u34-pad3_ net-_u40-pad2_ u40
a31 [net-_u13-pad2_ net-_u19-pad2_ ] net-_u23-pad3_ u23
a32 net-_u14-pad2_ net-_u24-pad2_ u24
a33 [net-_u32-pad1_ net-_u23-pad3_ ] net-_u32-pad3_ u32
a34 [net-_u32-pad3_ net-_u24-pad2_ ] net-_u37-pad3_ u37
a35 [net-_u37-pad3_ net-_u21-pad2_ ] net-_u41-pad3_ u41
a36 [net-_u14-pad2_ net-_u21-pad2_ ] net-_u22-pad3_ u22
a37 [net-_u28-pad1_ net-_u28-pad2_ ] net-_u28-pad3_ u28
a38 [net-_u28-pad3_ net-_u22-pad3_ ] net-_u33-pad3_ u33
a39 [net-_u33-pad3_ net-_u2-pad3_ ] net-_u35-pad3_ u35
a40 [net-_u35-pad3_ net-_u38-pad2_ ] net-_u38-pad3_ u38
a41 [net-_u38-pad2_ net-_u10-pad1_ ] net-_u39-pad3_ u39
a42 [net-_u43-pad1_ net-_u39-pad3_ ] net-_u43-pad3_ u43
a43 [net-_u38-pad3_ net-_u17-pad3_ ] net-_u42-pad3_ u42
a44 [net-_u44-pad1_ net-_u42-pad3_ ] net-_u44-pad3_ u44
a45 net-_u44-pad3_ net-_u45-pad2_ u45
a46 net-_u43-pad3_ net-_u46-pad2_ u46
a47 [net-_u40-pad2_ net-_u45-pad2_ ] net-_u49-pad3_ u49
a48 [net-_u41-pad3_ net-_u45-pad2_ ] net-_u50-pad3_ u50
a49 [net-_u40-pad2_ net-_u43-pad3_ ] net-_u51-pad3_ u51
a50 [net-_u57-pad1_ net-_u49-pad3_ ] net-_u57-pad3_ u57
a51 [net-_u50-pad3_ net-_u51-pad3_ ] net-_u58-pad3_ u58
a52 [net-_u57-pad3_ net-_u58-pad3_ ] net-_u1-pad12_ u61
a53 [net-_u46-pad2_ net-_u44-pad3_ ] net-_u47-pad3_ u47
a54 [net-_u55-pad1_ net-_u47-pad3_ ] net-_u1-pad9_ u55
a55 [net-_u40-pad2_ net-_u43-pad3_ ] net-_u48-pad3_ u48
a56 [net-_u56-pad1_ net-_u48-pad3_ ] net-_u56-pad3_ u56
a57 net-_u56-pad3_ net-_u1-pad10_ u60
a58 [net-_u34-pad3_ net-_u45-pad2_ ] net-_u53-pad3_ u53
a59 [net-_u40-pad2_ net-_u43-pad3_ ] net-_u54-pad3_ u54
a60 [net-_u41-pad3_ net-_u46-pad2_ ] net-_u52-pad3_ u52
a61 [net-_u52-pad3_ net-_u53-pad3_ ] net-_u59-pad3_ u59
a62 [net-_u59-pad3_ net-_u54-pad3_ ] net-_u1-pad11_ u62
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u3 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u9 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u10 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u17 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u2 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u7 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u8 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u16 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u70 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u5 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u6 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u15 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u4 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u11 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u12 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u18 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u13 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u14 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u26 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u29 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u30 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u36 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u20 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u19 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u21 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u27 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u25 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u31 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_xor, NgSpice Name: d_xor
.model u34 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u40 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u23 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u24 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u32 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u37 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_xor, NgSpice Name: d_xor
.model u41 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u22 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u28 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u33 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u35 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u38 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u39 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u43 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u42 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u44 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u45 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u46 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u49 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u50 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u51 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u57 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u58 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u61 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u47 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u55 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u48 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u56 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u60 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u53 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u54 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u52 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u59 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u62 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 250e-03 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
